US07572809B2
Similar procedure as described in example 10 was used, starting from (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and tetrahydro-furan-3-ol to give [6,7-Dimethoxy-1-(tetrahydro-furan-3-yloxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 371(MH+).

reactant | (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | tetrahydro-furan-3-ol | O1CC(CC1)O | C4H8O2
product | [6,7-Dimethoxy-1-(tetrahydro-furan-3-yloxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1OC)OC1COCC1)NC1=NNC(=C1)C | C19H22N4O4
